US07935722B2
[9-(6-Fluoro-pyridin-2-ylmethyl)-6-trifluoromethoxy-2,3,4,9-tetrahydro-1H-carbazol-3-yl]-carbamic acid benzyl ester
Add Cs2CO3 (6.44 g, 19.8 mmol) to a solution of (6-trifluoromethoxy-2,3,4,9-tetrahydro-1H-carbazol-3-yl)-carbamic acid benzyl ester (Preparation 43) (4.00 g, 9.88 mmol) and 2-bromomethyl-6-fluoropyridine (Preparation 44) (3.11 g, 13.8 mmol) in DMF (40 mL). Heat the resulting mixture to 50° C. for 18 h and then dilute with EtOAc (120 mL). Wash the organics with water (3×40 mL), dry (MgSO4), filter, and concentrate to give the crude product (5.40 g) as a brown oil. Purify the crude product on silica gel (120 g) eluting with 2545% EtOAc/hexanes to afford 2.85 g (56%) of the title compound as a tan oil. MS (ES): m/z 514 (M+1); HPLC (Method A): Rt=4.54 min (95%).

reactant | Cs2CO3 | 19.8 mmol, 6.44 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | (6-trifluoromethoxy-2,3,4,9-tetrahydro-1H-carbazol-3-yl)-carbamic acid benzyl ester | 9.88 mmol, 4.00 g | C(C1=CC=CC=C1)OC(NC1CCC=2NC3=CC=C(C=C3C2C1)OC(F)(F)F)=O | C21H19F3N2O3
reactant | 2-bromomethyl-6-fluoropyridine | 13.8 mmol, 3.11 g | BrCC1=NC(=CC=C1)F | C6H5BrFN
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 120 mL | CCOC(=O)C | C4H8O2
product | [9-(6-Fluoro-pyridin-2-ylmethyl)-6-trifluoromethoxy-2,3,4,9-tetrahydro-1H-carbazol-3-yl]-carbamic acid benzyl ester | 2.85 g, 56% | C(C1=CC=CC=C1)OC(NC1CCC=2N(C3=CC=C(C=C3C2C1)OC(F)(F)F)CC1=NC(=CC=C1)F)=O | C27H23F4N3O3
